US07531238B2
The mixture was made to be at 70° C., and a mixture of 178 parts by mass of isophorone diisocyanate and 244 parts of hexamethylene-1,6-diisocyanate was added thereto, and a resultant mixture was stirred at 80° C. to 90° C. until a content of isocyanate thereof became 5.6% by mass. The prepolymer was cooled to 60° C., and 56 parts by mass of biuret polyisocyanate obtained from 3 mol of hexamethylene diisocyanate and 1 mol of water and 175 parts by mass of bisketimine obtained from isophorone diamine and acetone were sequentially added to obtain an aqueous dispersion of polyurethane.

reactant | isophorone diisocyanate | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | isocyanate | [N-]=C=O
reactant | water | 1 mol | O | H2O
product | hexamethylene diisocyanate | 3 mol | C(CCCCCN=C=O)N=C=O | C8H12N2O2
